US07282511B2
8-Amino-5-(4-chlorophenyl)-N-methyl-1,2,3,4-tetrahydroisoquinoline hydrochloric acid salt
A mixture of 5-(4-Chlorophenyl)-N-methyl-8-nitro-1,2,3,4-tetrahydroisoquinoline (3.47 g, 11.5 mmol), sulphuric acid (1 ml, 12 mmol), Raney nickel (1 ml, 50% slurry in water) and methanol (150 ml) was stirred under hydrogen for 1.5 h. The crude mixture was filtered through celite and was evaporated. Yield 3.2 g (90%). Mp 213-215° C.

reactant | 5-(4-Chlorophenyl)-N-methyl-8-nitro-1,2,3,4-tetrahydroisoquinoline | 11.5 mmol, 3.47 g | ClC1=CC=C(C=C1)C1=C2CCN(CC2=C(C=C1)[N+](=O)[O-])C | C16H15ClN2O2
reactant | sulphuric acid | 12 mmol, 1 ml | S(O)(O)(=O)=O | H2O4S
catalyst | Raney nickel | 1 ml | [Ni] | Ni
solvent | methanol | 150 ml | CO | CH4O
product | 8-Amino-5-(4-chlorophenyl)-N-methyl-1,2,3,4-tetrahydroisoquinoline hydrochloric acid salt | Cl.NC=1C=CC(=C2CCN(CC12)C)C1=CC=C(C=C1)Cl | InChI=1S/C16H17ClN2.ClH/c1-19-9-8-14-13(6-7-16(18)15(14)10-19)11-2-4-12(17)5-3-11;/h2-7H,8-10,18H2,1H3;1H
